US06642251B1
A mixture of 0.5 g 5-fluoro-1-indanone, 13 g oxindole and 1 ml piperidine in 4 ml dimethylforamide was heated in a sealed tube at 125° C. for 2.5 hours. The reaction mixture was poured into water and the aqueous layer was decanted. Ethyl acetate was then added slowly until a solid formed. The solid was filtered and washed with ethyl acetate/hexanes to yield a curry colored solid. The solid was then further purified by washing with dimethylforamide/acetone to give 122 mg of 3-(5-piperidin-1-yl-indan-1-ylidene)-1,3-dihydroindol-2-one as an orange solid.

reactant | 5-fluoro-1-indanone | 0.5 g | FC=1C=C2CCC(C2=CC1)=O | C9H7FO
reactant | oxindole | 13 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | dimethylforamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(5-piperidin-1-yl-indan-1-ylidene)-1,3-dihydroindol-2-one | 122 mg | N1(CCCCC1)C=1C=C2CCC(C2=CC1)=C1C(NC2=CC=CC=C12)=O | C22H22N2O
